US08378104B2
Step I: 3-bromo-5-methoxythieno[2,3-c]pyridine
Into a suspension of 60% sodium hydride (18.6 mg, 0.465 mmol) in DMF (1.0 mL) was added a solution of 3-bromothieno[2,3-c]pyridin-5-ol (54.0 mg, 0.232 mmol) in DMF (3 mL) at RT in 5 min under an atmosphere of nitrogen. After 30 min stirring at RT, dimethyl sulfate (26.9 μL, 0.279 mmol) was added. The combined mixture was stirred at RT for 16 h. After that time, the solvent was removed in vacuo. The residue was then purified by ISCO chromatography (0 to 5% MeOH:DCM) to afford 11.2 mg (20%) of the title compound as a beige solid. 1H NMR (400 MHz, DMSO-d6): δ 8.95 (d, J=0.8 Hz, 1H), 8.31 (s, 1 H), 7.01 (d, J=0.8 Hz, 1 H), 3.94 (s, 3 H); MS (ESI): 243.94, 245.90 [M+H]+; HPLC tR=4.15 min (ZQ3: polar—5 min).

reactant | sodium hydride | 0.465 mmol, 18.6 mg | [H-].[Na+]
reactant | 3-bromothieno[2,3-c]pyridin-5-ol | 0.232 mmol, 54.0 mg | BrC1=CSC2=CN=C(C=C21)O | C7H4BrNOS
reactant | dimethyl sulfate | 0.279 mmol, 26.9 μL | S(=O)(=O)(OC)OC | C2H6O4S
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3-bromo-5-methoxythieno[2,3-c]pyridine | 11.2 mg, 20% | BrC1=CSC2=CN=C(C=C21)OC | C8H6BrNOS
